US06995179B2
1) Synthesis of 5-(2-phenylcyclopropylmethyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine 3,5-dicarboxylate:
306 mg (0.85 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 188 mg (1.27 mmol) of 2-phenylcyclopropylmethanol, 243 mg (1.27 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 23 mg (0.18 mmol) of 4-dimethylaminopyridine were stirred together in 10 ml of dichloromethane at room temperature for one hour. Water was added to the reaction liquid. After the extraction with dichloromethane, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.85 mmol, 306 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)[O-])C)C)C(=O)OCCC#N
reactant | 2-phenylcyclopropylmethanol | 1.27 mmol, 188 mg | C1(=CC=CC=C1)C1C(C1)CO | C10H12O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.27 mmol, 243 mg | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
catalyst | 4-dimethylaminopyridine | 0.18 mmol, 23 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(2-phenylcyclopropylmethyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine 3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC1C(C1)C1=CC=CC=C1)C)C)C(=O)OCCC#N | C28H27ClN2O4
